US04590196
The 4-methoxy benzisothiazolone (0.065 mole) was dissolved in 200 mL of dichloroethane and PCl5 (1.05 mole equiv.) was added neat. The reaction was refluxed-monitored by tlc. An additional 0.25 mole equiv. and 2×0.10 mole equiv. of PCl5 was added after 1 hour, 21/2 hours, and 3 hours before the reaction was judged complete by tlc. The reaction was cooled and the solvent and excess reagent removed by house vacuum distillation. The residue was flash chromatographed (30% CH2Cl2 /70% hexane) affording the 3-chloro-4-methoxy-1,2-benzisothiazole in 60% yield.

reactant | 4-methoxy benzisothiazolone | 0.065 mole | COC1=CC=CC2=C1C=NS2=O | C8H7NO2S
reactant | PCl5 | 1.05 mole | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloroethane | 200 mL | ClC(C)Cl | C2H4Cl2
product | 3-chloro-4-methoxy-1,2-benzisothiazole | 60% yield | ClC1=NSC2=C1C(=CC=C2)OC | C8H6ClNOS
